US04242350
Guanidine nitrate (244 g.) was slurried in dimethylformamide (500 ml., dried over molecular sieve) and sodium hydride paste (58 g. of a 63% w/w dispersion in oil) was added over 30 minutes with external cooling in an acetone/solid CO2 bath to maintain the internal temperature at 25°-30°. The mixture was stirred for 30 minutes at 25° then cooled to 20°. 5-Chloro-3-chloromethyl-1,2,4-thiadiazole (84.5 g.) was added at 20°-25° over 20 minutes with external cooling at 5°-10°. The mixture was stirred for 20 minutes at 25° then poured into water (5000 ml.) and extracted with ethyl acetate (2×5000 ml.). The combined upper layers were extracted with 2 N HCl (2×500 ml.) and the combined acid extracts were basified with 2 N NaOH. The product was filtered off, washed with water, sucked dry and then dried over P2O5 at 1 m.m. to give 3-chloromethyl-5-guanidino-1,2,4-thiadiazole.

reactant | Guanidine nitrate | 244 g | [N+](=O)(O)[O-].NC(=N)N
reactant | sodium hydride | [H-].[Na+]
reactant | 5-Chloro-3-chloromethyl-1,2,4-thiadiazole | 84.5 g | ClC1=NC(=NS1)CCl | C3H2Cl2N2S
reactant | water | 5000 ml | O | H2O
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 3-chloromethyl-5-guanidino-1,2,4-thiadiazole | ClCC1=NSC(=N1)NC(=N)N | C4H6ClN5S
